US04198334
26.2 g (0.05 mole) of butylmalonic acid-bis(2,3,6-trimethyl-2,6-diethyl-4-piperidinyl)ester and 13.2 g (0.05 mole) of N-(3,5-di-tert.butyl-4-hydroxybenzyl) dimethylamine are dissolved in 200 ml of toluene. After the addition of 0.25 g of lithium amide, the mixture is refluxed for 4 hours. After cooling, the mixture is neutralised with 1.5 ml of 1% acetic acid, and the organic phase is repeatedly washed with water. After drying over Na2SO4, the solution is concentrated in vacuo. As residue there is obtained butyl-(3,5-di-tert.butyl-4-hydroxybenzyl)malonic acid-bis(2,3,6-trimethyl-2,6-diethyl-4-piperidinyl) ester in the form of viscous oil (Compound No. 32).

reactant | butylmalonic acid-bis(2,3,6-trimethyl-2,6-diethyl-4-piperidinyl)ester | 0.05 mole, 26.2 g | CC1(NC(CC(C1C)OC(C(C(=O)OC1C(C(NC(C1)(CC)C)(CC)C)C)CCCC)=O)(CC)C)CC | C31H58N2O4
reactant | N-(3,5-di-tert.butyl-4-hydroxybenzyl) dimethylamine | 0.05 mole, 13.2 g | C(C)(C)(C)C=1C=C(CN(C)C)C=C(C1O)C(C)(C)C | C17H29NO
reactant | lithium amide | 0.25 g | [NH2-].[Li+]
reactant | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | butyl-(3,5-di-tert.butyl-4-hydroxybenzyl)malonic acid-bis(2,3,6-trimethyl-2,6-diethyl-4-piperidinyl) ester | CC1(NC(CC(C1C)OC(C(C(=O)OC1C(C(NC(C1)(CC)C)(CC)C)C)(CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)CCCC)=O)(CC)C)CC | C46H80N2O5
